US07226923B2
7-Hydroxy-2-Isopropyl-4-bromo-2H-phthalazin-1-one
Concentrated sulfuric acid (17 ml) was added slowly to a solution of 7-Amino-2-Isopropyl-4-bromo-2H-phthalazin-1-one (4.6 g, 0.016 mol) in acetic acid (50 ml). The reaction mixture was cooled to 0° C. and a solution of NaNO2 (1.52 g, 0.022 mol) in water (10 ml) was added dropwise. The reaction mixture was stirred for a further 20 minutes at 0° C. prior to the addition of urea (0.55 g, 0.009 mol) and cold water (50 ml). The reaction mixture was then added carefully to a refluxing mixture of sulfuric acid (28 ml) in water (115 ml) and the reaction was stirred for a further 10 minutes at reflux before being allowed to cool to room temperature. Upon standing, an orange precipitate was observed, which was collected by filtration and washed with water to give the title compound (4.22 g, 93% yield) as an orange powder.

reactant | sulfuric acid | 17 ml | S(O)(O)(=O)=O | H2O4S
reactant | 7-Amino-2-Isopropyl-4-bromo-2H-phthalazin-1-one | 0.016 mol, 4.6 g | NC1=CC=C2C(=NN(C(C2=C1)=O)C(C)C)Br | C11H12BrN3O
reactant | NaNO2 | 0.022 mol, 1.52 g | N(=O)[O-].[Na+]
reactant | urea | 0.009 mol, 0.55 g | NC(=O)N | CH4N2O
reactant | sulfuric acid | 28 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
solvent | water | 115 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 7-Hydroxy-2-Isopropyl-4-bromo-2H-phthalazin-1-one | 4.22 g, 93% yield | OC1=CC=C2C(=NN(C(C2=C1)=O)C(C)C)Br | C11H11BrN2O2
